US05849747
(2) Preparation of methyl 3-tert-butoxycarbonyl-4-hydroxy-4-[N-[(1RS,2RS)-1-methyl-2-(4-nitrophenyl)-3-{5-(phenylcarbamoyl)-2-furyl}propyl]-N-(2-naphthylmethyl)carbamoyl]-3-butenoate
40 mg of methyl 3-tert-butoxycarbonyl-4-hydroxy-4-[N-[(1RS,2RS)-1-methyl-2-(4-nitrophenyl)-3-{5-(phenylcarbamoyl)-2-furyl}propyl]-N-(2-naphthylmethyl)carbamoyl]butanoate was dissolved in 5 ml of chloroform, and 68 mg of Dess-Martin reagent was added thereto, followed by stirring at room temperature for one hour. The reaction solution was poured into a mixed solution of a saturated sodium hydrogencarbonate aqueous solution and a saturated sodium thiosulfate aqueous solution and extracted with ethyl acetate. The organic layer was washed with a saturated sodium chloride aqueous solution and then dried over anhydrous magnesium sulfate. The drying agent was filtered off, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel thin layer chromatography (Kieselgel™60F254, Art™5744; hexane/ethyl acetate=3/2) to obtain 16 mg (yield: 40%) of the above-identified compound as a colorless oily substance.

reactant | methyl 3-tert-butoxycarbonyl-4-hydroxy-4-[N-[(1RS,2RS)-1-methyl-2-(4-nitrophenyl)-3-{5-(phenylcarbamoyl)-2-furyl}propyl]-N-(2-naphthylmethyl)carbamoyl]butanoate | 40 mg | C(C)(C)(C)OC(=O)C(CC(=O)OC)C(C(N(CC1=CC2=CC=CC=C2C=C1)C(C(CC=1OC(=CC1)C(NC1=CC=CC=C1)=O)C1=CC=C(C=C1)[N+](=O)[O-])C)=O)O | C43H45N3O10
reactant | Dess-Martin reagent | 68 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | methyl 3-tert-butoxycarbonyl-4-hydroxy-4-[N-[(1RS,2RS)-1-methyl-2-(4-nitrophenyl)-3-{5-(phenylcarbamoyl)-2-furyl}propyl]-N-(2-naphthylmethyl)carbamoyl]-3-butenoate | 16 mg, yield: 40% | C(C)(C)(C)OC(=O)C(CC(=O)OC)=C(C(N(CC1=CC2=CC=CC=C2C=C1)C(C(CC=1OC(=CC1)C(NC1=CC=CC=C1)=O)C1=CC=C(C=C1)[N+](=O)[O-])C)=O)O | C43H43N3O10
